US07745641B2
In a similar manner to Step 2 of Example 6, 4-ethyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (87.6 mg, 0.217 mmol) was dissolved in acetonitrile (7 mL), and the solution was treated with 1-(2-hydroxyethyl)piperazine (113 mg, 0.868 mmol), acetic acid (0.248 mL, 4.34 mmol) and sodium triacetoxyborohydride (184 mg, 0.868 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with sodium carbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-ethyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (102 mg, yield 91%).

reactant | 4-ethyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.217 mmol, 87.6 mg | C(C)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O4
reactant | 1-(2-hydroxyethyl)piperazine | 0.868 mmol, 113 mg | OCCN1CCNCC1 | C6H14N2O
reactant | acetic acid | 4.34 mmol, 0.248 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.868 mmol, 184 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 4-ethyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 102 mg, yield 91% | C(C)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C30H38N4O4
